US09233104B2
To a solution of 1,3-dibromo-5-fluorobenzene (LXI) (2.0 g, 7.88 mmol) in toluene (20 ml) was added potassium t-butoxide (2.65 g, 23.6 mmol) and 1-methylpiperazine (1.75 mL, 15.8 mmol). The reaction was heated at 105° C. overnight. The toluene was removed under vacuum and the residue was dissolved in water and extracted with EtOAc. The organic phase was separated, washed with brine, dried over MgSO4 and concentrated to dryness. The crude product was purified on a silica gel column (1:99 MeOH:CHCl3→7:93 MeOH:CHCl3) to produce 1-(3-bromo-5-fluorophenyl)-4-methylpiperazine (LXII) as an orange oil (800 mg, 2.93 mmol, 37.2% yield). 1H NMR (DMSO-d6, 500 MHz) δ ppm 2.20 (s, 3H), 2.39 (t, J=5 Hz, 4H), 3.33 (t, J=5 Hz, 4H), 6.74-6.81 (m, 2H), 6.91 (s, 1H); ESIMS found for C11H4BrFN2 m/z 273 (M+H).

reactant | 1,3-dibromo-5-fluorobenzene | 7.88 mmol, 2.0 g | BrC1=CC(=CC(=C1)F)Br | C6H3Br2F
reactant | potassium t-butoxide | 23.6 mmol, 2.65 g | CC(C)([O-])C.[K+]
reactant | 1-methylpiperazine | 15.8 mmol, 1.75 mL | CN1CCNCC1 | C5H12N2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-bromo-5-fluorophenyl)-4-methylpiperazine | 2.93 mmol, 800 mg, 37.2% yield | BrC=1C=C(C=C(C1)F)N1CCN(CC1)C | C11H14BrFN2
